US04530931
8-Quinolylcarbamyl Chloride
8-Aminoquinoline (2.0 g., Pfaltz & Bauer, A28560) in methylene chloride (10 ml) was added dropwise to a 0° C. solution of 2.2M phosgene in methylene chloride (12 ml). The resulting precipitate was filtered and dried. The dark solid thus obtained is unstable and in practice it was immediately used in the next reaction.

reactant | 8-Aminoquinoline | 2.0 g | NC=1C=CC=C2C=CC=NC12 | C9H8N2
reactant | phosgene | 2.2M | C(=O)(Cl)Cl | CCl2O
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 12 ml | C(Cl)Cl | CH2Cl2
product | 8-Quinolylcarbamyl Chloride | N1=CC=CC2=CC=CC(=C12)NC(=O)Cl | C10H7ClN2O
